US04622326
(1-Ethyl-4-isopropylidenaminooxy-1H-pyrazolo[3,4-b]pyridin-4-yl)(2-pyridyl)carbinol
Twenty-five ml of 1.44 M n-BuLi was dissolved in 100 ml of anhydrous ether and chilled to -65°. 2-Bromopyridine (5.70 g) was then added dropwise and stirring was continued for 30 minutes. This solution was then added under nitrogen pressure through a catheter to 8.30 g of 1-ethyl-5-formyl-4-isopropyl-idenaminoxy-1H-pyrazolo[3,4-b]pyridine in 100 ml of THF at ice bath temperature. This reaction mixture was stirred for additional 30 minutes and then distributed between 5% hydrochloric acid and ether. The aqueous phase was washed well with ether and then made basic by pouring it over solid sodium bicarbonate. The product was extracted with dichloromethane and purified by preparative HPLC (5% methanol-dichloromethane, 200 ml/minute) to give 6.20 g of product, mp 131°-133° C. Recrystallization from dichloromethane-hexane raised the mp to 134°-135° C.

reactant | n-BuLi | 1.44 M, Twenty-five ml | [Li]CCCC
reactant | 2-Bromopyridine | 5.70 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | 1-ethyl-5-formyl-4-isopropyl-idenaminoxy-1H-pyrazolo[3,4-b]pyridine | 8.30 g | C(C)N1N=CC=2C1=NC=C(C2ON=C(C)C)C=O | C12H14N4O2
reactant | hydrochloric acid | Cl | ClH
reactant | ether | 100 ml | CCOCC | C4H10O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | (1-Ethyl-4-isopropylidenaminooxy-1H-pyrazolo[3,4-b]pyridin-4-yl)(2-pyridyl)carbinol | 6.20 g | C(C)N1NC=C2C1=NC=CC2(ON=C(C)C)C(O)C2=NC=CC=C2 | C17H21N5O2
